US09120938B2
Linoleyl methanesulfonate (27 g, 78 mmoles), anhydrous magnesium bromide (43 g; 238 mmoles), and 1000 ml of dry ether was placed in a 2500 ml three-necked flask equipped with reflux condenser, inlet and outlet tubes for dry nitrogen, and mechanical stirrer. The mixture was stirred vigorously at room temperature for 24 hr. More ether, and cold, degassed water were added after 24 hours. The water layer was extracted twice with ether. The combined ether phases were washed consecutively with water, 1% potassium carbonate solution, and water, and are dried over anhydrous sodium sulfate. Concentration of the ether phase using a rotary evaporator yielded 25 g (97%) of linoleyl bromide; mp −35° C.

reactant | Linoleyl methanesulfonate | 78 mmoles, 27 g | CS(=O)(=O)OCCCCCCCC\C=C/C\C=C/CCCCC | C19H36O3S
reactant | magnesium bromide | 238 mmoles, 43 g | [Br-].[Mg+2].[Br-]
solvent | ether | 1000 ml | CCOCC | C4H10O
product | linoleyl bromide | 25 g, 97% | C(CCCCCCC\C=C/C\C=C/CCCCC)Br | C18H33Br
